US04554111
A solution of α-hydroxyethylphosphinic acid (2.2 g) and 1-butanol (5.0 g) in benzene (30 ml) was heated for 3 hours with removal of water through a Dean-Stark apparatus. After cooling, the reaction mixture was washed with water, dried over magnesium sulfate and concentrated in vacuo to give 2.71 g (81.6%) of n-butyl α-hydroxyethylphosphinate (Compound No. 5).

reactant | α-hydroxyethylphosphinic acid | 2.2 g | OC(C)P(O)=O | C2H7O3P
reactant | 1-butanol | 5.0 g | C(CCC)O | C4H10O
reactant | water | O | H2O
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | n-butyl α-hydroxyethylphosphinate | 2.71 g, 81.6% | OC(C)P(OCCCC)=O | C6H15O3P
